US04251444
2-(3-Benzoylthio-2-methylpropanoyl)-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid
To a solution of (-)1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid (5.0 g., 0.028 M) and sodium hydroxide (1.12 g., 0.028 M) in water (100 ml.) at 10° C. was slowly added (-)3-benzoylthio-2-methylpropionyl chloride (6.82 g., 0.028 M). At the same time, from a separate dropping funnel, was added a solution of sodium hydroxide (1.12 g., 0.028 M) in water (20 ml.), at such a rate that the solution was maintained at a pH between 9.5 and 7.5 pH units (final pH 7.5). After stirring overnight at 5° C., the reaction mixture was filtered and the clear filtrate acidified with dilute hydrochloric acid. The product was extracted into methylene dichloride, washed and dried over sodium sulfate. After filtration the solvent was removed by evaporation at reduced pressure, leaving a residue (8 g.). To a solution containing 0.5 g of this material in methylene dichloride was added piperazine (0.058 g., 0.67 mM). The solvent was removed and the product recrystallized from acetonitrile, giving a white solid, the title compound, as a hemipiperazine salt, m.p. 154°-155° C.

reactant | (-)1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid | 0.028 M, 5.0 g | C1NC(CC2=CC=CC=C12)C(=O)O | C10H11NO2
reactant | sodium hydroxide | 0.028 M, 1.12 g | [OH-].[Na+]
reactant | (-)3-benzoylthio-2-methylpropionyl chloride | 0.028 M, 6.82 g | C(C1=CC=CC=C1)(=O)SCC(C(=O)Cl)C | C11H11ClO2S
reactant | sodium hydroxide | 0.028 M, 1.12 g | [OH-].[Na+]
reactant | piperazine | 0.67 mM, 0.058 g | N1CCNCC1 | C4H10N2
solvent | water | 100 ml | O | H2O
solvent | water | 20 ml | O | H2O
solvent | methylene dichloride | C(Cl)Cl | CH2Cl2
product | 2-(3-Benzoylthio-2-methylpropanoyl)-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid | C(C1=CC=CC=C1)(=O)SCC(C(=O)N1CC2=CC=CC=C2CC1C(=O)O)C | C21H21NO4S
